US06677351B2
A mixture of 4-bromobenzenesulfonamide, diboron pinacol ester (1.1 eq), potassium acetate (3.5 eq) and 1,1′-bis (diphenylphosphino)ferrocene]dichloropalladium(II) (0.05 eq) im N,N-dimethylformamide (4 ml/mmol) was heated at 85° C. for 18 hours. After quenching with saturated aqueous ammonium chloride solution the mixture was partitioned between ethyl acetate and water and the product from the organic phase was chromatographed on silica gel eluting with a 1:1 mixture of ethyl acetate and hexane to afford the 4-Sulfamoylbenzeneboronic acid pinacol ester as a solid.

reactant | 4-bromobenzenesulfonamide | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
reactant | diboron pinacol ester | 1.1 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.5 eq | C(C)(=O)[O-].[K+]
catalyst | 1,1′-bis (diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.05 eq | Cl[Pd]Cl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Sulfamoylbenzeneboronic acid pinacol ester | S(N)(=O)(=O)C1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO4S
